### PR TITLE
feat (PBV): Support append operations.

### PR DESCRIPTION
**Pull request by luigirinaldi**
- Introduce support for `BitVec.append`. 
  - For this to work, we introduce some theorems to convert conditions on width variables into conditions on the corresponding `BitVec` masks. 
  - We also need to extend the `Tm .width` to capture additions on widths. The bitblasting bound is now computed by recursing over all width terms and adding the provided width for each `atom`, e.g. a `w+w` with a provided `w <= 8` will make the concrete bound be `16`. 
  - This also requires a theorem `maskOfWidth_add_eq_mul_of_maskOfWidth` to relate an addition on `Nat` width variables to a constraint on masks.
- Add `append` to both the `Examples.lean` and the unit testing.

### CODE REVIEW

File: Veir/Data/PBV/Push.lean [hunk 1]
```diff
@@ -66,6 +89,32 @@ theorem setWidth_signExtend_eq_and_maskOfWidth {t v o : Nat} (hvo : v ≤ o) :
...
+  apply BitVec.eq_of_toNat_eq
+  rw [BitVec.toNat_setWidth_of_le hvw, BitVec.toNat_or, BitVec.toNat_append,
+      BitVec.toNat_setWidth_of_le h, BitVec.toNat_mul, BitVec.toNat_add,
+      BitVec.toNat_setWidth_of_le hv, toNat_maskOfWidth h, BitVec.toNat_ofNat]
+  congr 1
+  have h2 : (2 ^ w - 1 + 1 % 2 ^ o) % 2 ^ o = 2 ^ w % 2 ^ o := by
+    rw [Nat.add_mod_mod]
+    congr 1
+    have := Nat.two_pow_pos w
+    lia
```
Comment (bollu) [inline Veir/Data/PBV/Push.lean]: This is *really* slop 😄

File: Veir/Meta/PBVDecide.lean [hunk 2]
```diff
@@ -73,21 +74,38 @@ meta partial def Tm.reifyWidth (env : TmWidthEnv) (e : Expr) : MetaM (Option (Tm
     -- An atom is an expression that is present in the Env.
     pure <| some (.widthAtom id)
   else
-    pure none
+    match_expr e with
+    | HAdd.hAdd ty _ _ _ ae be =>
+        let .true := Expr.isNat ty | pure none
+        let some a ← Tm.reifyWidth env ae | pure none
+        let some b ← Tm.reifyWidth env be | pure none
+        pure (some (.widthAdd a b))
```
Comment (bollu) [inline Veir/Meta/PBVDecide.lean]:
```suggestion
       return some (.widthAdd a b)
```

File: Veir/Meta/PBVDecide.lean [hunk 3]
```diff
@@ -288,11 +344,14 @@ meta partial def visitExprRec (g : MVarId)
...
   := g.withContext do
+  -- Compute max width
+  let maxWidth := widthTms.getUniverseWidthUpperBound ctx
   -- Intro all the masks
-  widthTms.terms.foldM (init := (g, { env := widthTms.env })) (fun (g, widthInfos) _ widthTm =>
-    introMaskWidth ctx.bmcBound g widthTm widthInfos
-  )
-
+  widthTms.terms.foldM
+    (init := (g, { env := widthTms.env }))
```
Comment (bollu) [inline Veir/Meta/PBVDecide.lean:379]: Add a comment above the line saying what we're doing here?

File: Veir/Meta/PBVDecide.lean [hunk 4]
```diff
@@ -186,13 +211,44 @@ meta def introMaskWidth (maxBound : Nat) (g : MVarId) (widthTm : WidthTm) (infos
...
+      widthTm := widthTm,
       widthMaskFvar := mask,
       widthMaskHypFvar := maskHyp
       hypWidthLeBoundMVarId := hypWidthLeBound.mvarId!,
       hypWidthLeBoundNote
     }
-    return (g, infos.push info)
+    return (g, info, infos.push info)
+
+meta def WidthInfos.getOrCreateTm (this : WidthInfos) (g : MVarId) (term : Tm .width) (maxBound : Nat)
```
Comment (bollu) [inline Veir/Meta/PBVDecide.lean:242]: Comment please!

File: Veir/Meta/PBVDecide.lean [hunk 5]
```diff
@@ -186,13 +211,44 @@ meta def introMaskWidth (maxBound : Nat) (g : MVarId) (widthTm : WidthTm) (infos
...
+  : MetaM (MVarId × WidthInfo × WidthInfos) := g.withContext do
+  if let some info := this.getFromTm? term then -- use reified.toExpr as a kind of "normal"/"canonical" form
+    return (g, info, this)
+  else
+    introMaskWidth maxBound g term this
+
+meta def introMaskRec (maxBound : Nat) (g : MVarId) (widthTm : Tm .width) (infos : WidthInfos)
```
Comment (bollu) [inline Veir/Meta/PBVDecide.lean:253]: Comment please!

**Review by bollu — APPROVED** [review]
LGTM modulo my nits :)

File: UnitTest/BoundedBitblasting/BoundedBitblasting.lean [hunk 6]
```diff
@@ -1,23 +1,44 @@
...
+/-- Commutativity of addition with definitionally-not-syntactically equal widths. -/
 example (w : Nat) (x : BitVec (w + 0)) (y : BitVec w) (hw : w ≤ 4) :
   x + y = y + x := by
   pbv_decide 4
   · bv_decide
   · grind
   · grind
 
-/-- Commutativity of addition for three variables -/
+/-- Commutativity of addition for three variables. -/
```
Comment (tobiasgrosser) [inline UnitTest/BoundedBitblasting/BoundedBitblasting.lean]: No need to change these comments. These are not sentences (they do not have a verb), so you do not need a `.` at the end.

File: Veir/Data/PBV/Examples.lean [hunk 7]
```diff
@@ -45,8 +45,7 @@ theorem trace_add_comm_manual (w : Nat) (x y : BitVec w) (hw : w ≤ 4) :
 
 
 /-- Manual trace of a zero extension to `q` followed by a zero extension to `r`,
-    which is a single zero extension to `r`, since `p < q`.
--/
+    which is a single zero extension to `r`, since `p < q`. -/
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Examples.lean]: This change seems unrelated.

File: Veir/Meta/PBVDecide.lean [hunk 8]
```diff
@@ -126,7 +150,8 @@ structure WidthInfo where
   widthMaskHypFvar : FVarId
   /-- The hypothesis that the width variable is less than the bmc bound. -/
   hypWidthLeBoundMVarId : MVarId
-  /-- The FVar of the bound hypothesis, necessary so 'simp' rewrites with it. -/
+  /-- The hypothesis that the width variable is less than the bmc bound.
```
Comment (tobiasgrosser) [inline Veir/Meta/PBVDecide.lean]: What is bmc, `bounded model checking`?

File: Veir/Data/PBV/Examples.lean [hunk 9]
```diff
@@ -138,3 +138,43 @@ theorem trace_zero_sign_extend (p q r : Nat) (x : BitVec p)
...
+/-- Manual trace of an append, whose result is twice as wide as its operands,
+    so the blast width has to cover `w + w` rather than just `w`. -/
+theorem trace_append (w : Nat) (a b : BitVec w) (hw : w ≤ 8) :
+  (a ++ b) + (b ++ a) = (a ++ a) + (b ++ b)
+  := by
+-- Step 1: Bound widths to the provided blast width. The blast width is 16, not
+--         8, because every append here has width `w + w`.
+  have w_le_bw : w ≤ 16 := by grind
+  have w_add_w_le_bw : w + w ≤ 16 := by grind
+-- Step 2-3: Introduce mask to replace `w` Nat var
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Examples.lean]:
```suggestion
-- Step 2-3: Introduce mask to replace `w` Nat var.
```

File: Veir/Data/PBV/Examples.lean [hunk 10]
```diff
@@ -138,3 +138,43 @@ theorem trace_zero_sign_extend (p q r : Nat) (x : BitVec p)
...
+  apply width_elim 16 w
+  intro mw h_mw
+-- Step 4: Eliminate the parametric bv vars of width `w`
+--         enforcing width constraint with mask
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Examples.lean]:
```suggestion
--         enforcing width constraint with mask.
```

Also, is this grammatically correct?

File: Veir/Data/PBV/Examples.lean [hunk 11]
```diff
@@ -138,3 +138,43 @@ theorem trace_zero_sign_extend (p q r : Nat) (x : BitVec p)
...
+  revert a
+  apply var_elim w_le_bw
+  intro a h_amw
+  revert b
+  apply var_elim w_le_bw
+  intro b h_bmw
+-- Step 5: Convert width hypothesis to mask hypothesis
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Examples.lean]:
```suggestion
-- Step 5: Convert width hypothesis to mask hypothesis.
```

File: Veir/Data/PBV/Examples.lean [hunk 12]
```diff
@@ -138,3 +138,43 @@ theorem trace_zero_sign_extend (p q r : Nat) (x : BitVec p)
...
+  have mw_mask := maskOfWidth_and_add_one_eq_zero h_mw
+  have w_add_w_mask := maskOfWidth_add_eq_mul_of_maskOfWidth w_le_bw w_le_bw w_add_w_le_bw h_mw h_mw
+-- Step 6: Remove natural numbers from goal and hyps, by pushing setWidths down
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Examples.lean]:
```suggestion
-- Step 6: Remove natural numbers from goal and hyps, by pushing setWidths down.
```

File: Veir/Data/PBV/Examples.lean [hunk 13]
```diff
@@ -138,3 +138,43 @@ theorem trace_zero_sign_extend (p q r : Nat) (x : BitVec p)
...
+  simp only [
+    eq_iff (o := 16),
+    setWidth_add,
+    setWidth_append_eq_or_mul_maskOfWidth_add_one (o := 16),
+    setWidth_setWidth,
+    w_add_w_le_bw,                 -- Lets simp discharge the `v + w ≤ o` side condition of
+                                   -- `setWidth_append_eq_or_mul_maskOfWidth_add_one`
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Examples.lean]:
```suggestion
                                   -- `setWidth_append_eq_or_mul_maskOfWidth_add_one`.
```

**Review by tobiasgrosser — APPROVED** [review]
Thank you.

File: Veir/Meta/PBVDecide.lean [hunk 14]
```diff
@@ -288,11 +344,14 @@ meta partial def visitExprRec (g : MVarId)
...
   : MetaM (MVarId × WidthInfos)
   := g.withContext do
+  -- Compute max width
+  let maxWidth := widthTms.getUniverseWidthUpperBound ctx
   -- Intro all the masks
-  widthTms.terms.foldM (init := (g, { env := widthTms.env })) (fun (g, widthInfos) _ widthTm =>
-    introMaskWidth ctx.bmcBound g widthTm widthInfos
-  )
-
+  widthTms.terms.foldM
```
Comment (bollu) [inline Veir/Meta/PBVDecide.lean:378]: Add a comment above the line saying what we're doing here?

File: Veir/Data/PBV/Examples.lean (hunk 10 above)
Comment (luigirinaldi) [reply Veir/Data/PBV/Examples.lean]: yes? it's saying that the parametric bv var is eliminated and the width constraint of `w` is enforced with a mask instead

**Comment by luigirinaldi** [comment]
@bollu @tobiasgrosser why did Copilot run on this branch?
